US06407122B1
1-(2-Amino-benzothiazol-6-yl)-2-(4-benzyl-piperidin-1-yl)-ethane
A solution of 3 g of 1-(2-Acetylamino-benzothiazol-6-yl)-2-bromo-ethane and 1.95 g of 4- benzylpiperidin and 3.5 g of K2CO3 in 20 ml of DME was heated at 75° C. for 2 hours. The solution was diluted with ethylacetate and washed with brine, after removal of the solvent the residue was heated at reflux in 50 ml of ethanol containing 5 ml of 5 M NaOH for 1 hour. The solvent was evaporated and the residue taken up in ethylacetate was washed with brine and dried. After removal of the solvent, the reaction produce was chromatographed on silica gel eluting with ethylacetate/cyclohexane ⅓ affording the title compound in 67% yield, m.p. 152-153° C.

reactant | 1-(2-Acetylamino-benzothiazol-6-yl)-2-bromo-ethane | 3 g | C(C)(=O)NC=1SC2=C(N1)C=CC(=C2)CCBr | C11H11BrN2OS
reactant | 4- benzylpiperidin | 1.95 g | C(C1=CC=CC=C1)C1CCNCC1 | C12H17N
reactant | K2CO3 | 3.5 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DME | 20 ml | COCCOC | C4H10O2
solvent | ethylacetate | C(C)OC(C)=O | C4H8O2
product | 1-(2-Amino-benzothiazol-6-yl)-2-(4-benzyl-piperidin-1-yl)-ethane | 67% yield | NC=1SC2=C(N1)C=CC(=C2)CCN2CCC(CC2)CC2=CC=CC=C2 | C21H25N3S
